datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc([NH2:10])cc1C[NH3+].[NH3+]C(CC(=O)[O-])C(=O)NC(CC(=O)O)C(=O)[O:21][H:20]>>Cc1ccc([NH2+:10][H:20])cc1C[NH3+].[NH3+]C(CC(=O)[O-])C(=O)NC(CC(=O)O)C(=O)[O-:21] 10=20;20,21=21",
"[H:20][NH+:21]1CCNCC1.[CH-:10]1C2=C(C=CC=C2)OC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)OC1=O.C1C[NH:21]CCN1 10=20;20,21=21",
"CC[N:10](CC)CC1CO1.S=C(c1cccc(Br)c1)[N:21](c1ccc(Cl)c(Cl)c1)[H:20]>>CC[N+:10](CC)(CC1CO1)[H:20].S=C(c1cccc(Br)c1)[N-:21]c1ccc(Cl)c(Cl)c1 10=20;20,21=21",
"CC(C[N+:21](C)(C)[H:20])C(C#N)(c1ccccc1)c1ccccc1.CNc1nnc(S(=O)(=O)[NH-:10])s1>>CC(C[N:21](C)C)C(C#N)(c1ccccc1)c1ccccc1.CNc1nnc(S(=O)(=O)[NH:10][H:20])s1 10=20;20,21=21",
"CC(CC(O)(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCCCC1.c1csc(c2scc[n:10]2)n1>>CC(CC(O)(c1ccccc1)c1ccccc1)[N:21]1CCCCC1.c1csc(c2scc[n+:10]2[H:20])n1 10=20;20,21=21",
"O=C(CC[C@H]1CC[C@H](O)CC1)[O-:10].O=C([O-])C[N+:21](=C1CCCCC1)[H:20]>>O=C(CC[C@H]1CC[C@H](O)CC1)[O:10][H:20].O=C([O-])C[N:21]=C1CCCCC1 10=20;20,21=21",
"Cc1ccc(C(O)C[NH2:10])cc1.O=C(c1nsc2ccccc12)[O:21][H:20]>>Cc1ccc(C(O)C[NH2+:10][H:20])cc1.O=C(c1nsc2ccccc12)[O-:21] 10=20;20,21=21",
"CCNCC#CC[NH+:21](CC)[H:20].Cc1cc([NH2:10])cc(C)c1C>>CCNCC#CC[NH:21]CC.Cc1cc([NH2+:10][H:20])cc(C)c1C 10=20;20,21=21",
"Cc1ccccc1C(O)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1.O=C1C=C(C(=O)[O-:10])OC(c2ccccc2)=C1>>Cc1ccccc1C(O)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1.O=C1C=C(C(=O)[O:10][H:20])OC(c2ccccc2)=C1 10=20;20,21=21",
"N#Cc1ccc(C[NH2:10])cc1.N#Cc1ccc([NH2+:21][H:20])cc1>>N#Cc1ccc(C[NH2+:10][H:20])cc1.N#Cc1ccc([NH2:21])cc1 10=20;20,21=21",
"[NH-]S(=O)(=O)c1nnc([N-:10]c2ccccc2)s1.c1ccc2c(c1)CCC([NH2+:21][H:20])C2>>[NH-]S(=O)(=O)c1nnc([N:10](c2ccccc2)[H:20])s1.c1ccc2c(c1)CCC([NH2:21])C2 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)C(=O)OCC[NH+:10](C(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)C[N:10](CC(C)O)CC(C)O.O=[N+]([O-])c1cccc(C2SCC[NH+:21]2[H:20])c1>>CC(C)C[N+:10](CC(C)O)(CC(C)O)[H:20].O=[N+]([O-])c1cccc(C2SCC[NH:21]2)c1 10=20;20,21=21",
"C(=C/c1cc[n:10]cc1)\c1ccncc1.COc1ccc2c(c1)NCC[NH+:21]2[H:20]>>C(=C/c1cc[n+:10]([H:20])cc1)\c1ccncc1.COc1ccc2c(c1)NCC[NH:21]2 10=20;20,21=21",
"CC1CC2CC[N+:21]1([H:20])CC2.CCc1cc(C)cc([O-:10])c1>>CC1CC2CC[N:21]1CC2.CCc1cc(C)cc([O:10][H:20])c1 10=20;20,21=21",
"O=C(c1ccccc1)[N:21](Br)[H:20].O=C1C=Cc2ccccc2C=C1[O-:10]>>O=C(c1ccccc1)[N-:21]Br.O=C1C=Cc2ccccc2C=C1[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)c2ccccc2C(=O)[O:21][H:20])cc1.O=C1n2nnnc2C=C[N-:10]1>>Cc1ccc(C(=O)c2ccccc2C(=O)[O-:21])cc1.O=C1n2nnnc2C=C[N:10]1[H:20] 10=20;20,21=21",
"O=CN[O:21][H:20].[O-]c1c2nc[nH]c2nc[n:10]1>>O=CN[O-:21].[O-]c1c2nc[nH]c2nc[n+:10]1[H:20] 10=20;20,21=21",
"C1CC[NH+](CC[N:10]2CCCCC2)CC1.ON=C1/C=C/C(=N/[O:21][H:20])c2ncccc21>>C1CC[NH+](CC[N+:10]2([H:20])CCCCC2)CC1.ON=C1/C=C/C(=N/[O-:21])c2ncccc21 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CNCCNCC[NH+:10]([H:20])C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)C(C(C)C)[NH2:10].CN1c2ccccc2Nc2c1cccc2[O:21][H:20]>>CC(C)C(C(C)C)[NH2+:10][H:20].CN1c2ccccc2Nc2c1cccc2[O-:21] 10=20;20,21=21",
"CC1NCCC[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1NCCC[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COC1=C([O:21][H:20])C(=O)C=CC=C1.Cc1ccc(C(=O)[O-:10])cc1>>COC1=C([O-:21])C(=O)C=CC=C1.Cc1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CCSCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCSCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)[NH:10]CCN.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH+:10](CCN)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=S1(=O)C=C([O-:10])c2ccccc21.c1cnc2ccc([O:21][H:20])cc2c1>>O=S1(=O)C=C([O:10][H:20])c2ccccc21.c1cnc2ccc([O-:21])cc2c1 10=20;20,21=21",
"C1C[NH:10]C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1C[NH+:10]([H:20])C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[NH:10]CCN.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCN)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH:10]C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[NH+:10](C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"O=C(/C=C/c1c[nH]c[n+:21]1[H:20])OCCCl.O=C(c1cnc(Br)s1)[O-:10]>>O=C(/C=C/c1c[nH]c[n:21]1)OCCCl.O=C(c1cnc(Br)s1)[O:10][H:20] 10=20;20,21=21",
"CCc1ccc[n:10]c1.c1ccc(C[NH2+]CC[S:21][H:20])cc1>>CCc1ccc[n+:10]([H:20])c1.c1ccc(C[NH2+]CC[S-:21])cc1 10=20;20,21=21",
"COc1cccc(C(=O)CC[N+:21]2([H:20])CCOCC2)c1.O=C(c1ccc(F)cc1)[O-:10]>>COc1cccc(C(=O)CC[N:21]2CCOCC2)c1.O=C(c1ccc(F)cc1)[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc([O:21][H:20])cc1.COCC[N:10](CCOC)c1ccccc1>>CC(=O)c1ccc([O-:21])cc1.COCC[N+:10](CCOC)(c1ccccc1)[H:20] 10=20;20,21=21",
